US07238714B2
Step 1. Methyl 5-chloro-2-(3-methylphenoxy)benzoate
The title compound was prepared according to the procedure described in step 1 of Example 67 from methyl 5-chloro-2-fluorobenzoate and m-cresol: 1H-NMR (CDCl3) δ 7.89 (1H, d, J=2.8 Hz), 7.40 (1H, dd, J=8.8, 2.8 Hz), 7.21 (1H, t, J=7.9 Hz), 6.96–6.87 (2H, m), 6.81–6.72 (2H, m), 3.83 (3H, s), 2.83 (3H, s).

reactant | methyl 5-chloro-2-fluorobenzoate | ClC=1C=CC(=C(C(=O)OC)C1)F | C8H6ClFO2
reactant | m-cresol | C1=C(C=CC=C1O)C | C7H8O
product | Methyl 5-chloro-2-(3-methylphenoxy)benzoate | ClC=1C=CC(=C(C(=O)OC)C1)OC1=CC(=CC=C1)C | C15H13ClO3
